US08497271B2
Part D. (1S,2S)-2-Thiophen-2-yl-cyclopropanecarboxylic acid [(R)-2-hydroxy-1-(4-hydroxy-phenyl)-ethyl]-amide
To a suspension of (1S,2S)-2-thiophen-2-yl-cyclopropanecarboxylic acid [(R)-2-hydroxy-1-(4-methoxy-phenyl)-ethyl]-amide (105 mg, 0.331 mmol) in DCM (3 mL) at −10° C. was added BBr3 (1M, 0.994 mL, 0.994 mmol). The mixture was stirred between −10 to −5° C. for 1 h. Work up with NaHCO3/HCl to give the crude product which was further purified by flash column (5% MeOH in DCM) of give the titled product (70 mg, 70%).

reactant | (1S,2S)-2-thiophen-2-yl-cyclopropanecarboxylic acid [(R)-2-hydroxy-1-(4-methoxy-phenyl)-ethyl]-amide | 0.331 mmol, 105 mg | OC[C@@H](C1=CC=C(C=C1)OC)NC(=O)[C@@H]1[C@H](C1)C=1SC=CC1 | C17H19NO3S
reactant | BBr3 | 0.994 mmol, 1M, 0.994 mL | B(Br)(Br)Br | BBr3
reactant | NaHCO3 HCl | C(=O)(O)[O-].[Na+].Cl
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (1S,2S)-2-Thiophen-2-yl-cyclopropanecarboxylic acid [(R)-2-hydroxy-1-(4-hydroxy-phenyl)-ethyl]-amide | 70 mg, 70% | OC[C@@H](C1=CC=C(C=C1)O)NC(=O)[C@@H]1[C@H](C1)C=1SC=CC1 | C16H17NO3S
